US05380721
To a warmed mixture of ether (500 mL) and magnesium turnings (14.9 g, 0.614 mol) was added dropwise 2-bromotoluene (105 g, 0.614 mol) and then a crystal of iodine. The reaction mixture was refluxed for 1 hour, then 4-cyanopyridine (30.2 g, 0.29 mol) in THF (130 mL) was added dropwise over 45 minutes. The mixture was refluxed for 1.5 hours, cooled to room temperature and quenched with 6N HCl (200 mL). The organic phase was separated, the aqueous phase was extracted with Et2O, and the combined ether phases were extracted with 2N HCl. The aqueous acidic phases were combined, basified with concentrated NH40OH, extracted with Et2O (3×750 mL) and the combined organic layers were dried over Na2SO4 and the solvent was removed in vacuo to afford 54 g of crude 2-isonicotinoyltoluene.

reactant | magnesium | 0.614 mol, 14.9 g | [Mg] | Mg
reactant | 2-bromotoluene | 0.614 mol, 105 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | iodine | II | I2
reactant | 4-cyanopyridine | 0.29 mol, 30.2 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | THF | 130 mL | C1CCOC1 | C4H8O
solvent | ether | 500 mL | CCOCC | C4H10O
product | 2-isonicotinoyltoluene | 54 g | C(C1=CC=NC=C1)(=O)C1=C(C=CC=C1)C | C13H11NO
